### PR TITLE
[Merged by Bors] - chore(NumberTheory/LSeries): unsqueeze lots of terminal simps

### PR DESCRIPTION
**Pull request by loefflerd**
---

This PR unsqueezes all the terminal `simps` and `simpas` in a selection of files under `LSeries`. It results in a 13% slowdown overall, and I leave it up to the maintainers whether this slowdown is a price worth paying for the maintainability advantages.

(The one file which slows down most, ~~LSeries/Basic~~ `LSeries/Dirichlet` (edit: sorry!), seems to be worst affected not because of the simps per se, but because the file doesn't contain much else except definitions and routine API lemmas, so the slowdown from unsqueezing simps looms larger in comparison.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
!bench

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 1]
```diff
@@ -410,11 +397,10 @@ lemma hasSum_int_completedSinZeta (a : ℝ) {s : ℂ} (hs : 1 < re s) :
     simp_rw [hc, div_right_comm]
     apply Summable.div_const
     apply Summable.of_nat_of_neg <;>
-    · simp only [Int.cast_neg, abs_neg, Int.cast_natCast, Nat.abs_cast]
-      rwa [summable_one_div_nat_rpow]
+    simpa
   refine (mellin_div_const .. ▸ hasSum_mellin_pi_mul_sq' (zero_lt_one.trans hs) hF h_sum).congr_fun
     fun n ↦ ?_
-  simp only [Int.sign_eq_sign, SignType.intCast_cast, sign_intCast, ← Int.cast_abs, ofReal_intCast]
+  simp [Int.sign_eq_sign, ← Int.cast_abs] -- non-terminal simp OK when `ring` follows?
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:403]: Yes, OK 👍

**Review by YaelDillies — APPROVED** [review]
The ones where you gain a line are definitely worth unsqueezing (not so much because you gain a line, but because the large `simp only` calls are the most fragile). The ones where you don't could arguably be either way.

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 2]
```diff
@@ -122,28 +117,27 @@ lemma term_convolution' (f g : ℕ → ℂ) (s : ℂ) :
...
 open Set in
 /-- The L-series of the convolution product `f ⍟ g` of two sequences `f` and `g`
 equals the product of their L-series, assuming both L-series converge. -/
 lemma LSeriesHasSum.convolution {f g : ℕ → ℂ} {s a b : ℂ} (hf : LSeriesHasSum f s a)
     (hg : LSeriesHasSum g s b) :
     LSeriesHasSum (f ⍟ g) s (a * b) := by
-  simp only [LSeriesHasSum, term_convolution']
   have hsum := summable_mul_of_summable_norm hf.summable.norm hg.summable.norm
-  exact (HasSum.mul hf hg hsum).tsum_fiberwise (fun p ↦ p.1 * p.2)
+  simpa only [LSeriesHasSum, term_convolution'] using (hf.mul hg hsum).tsum_fiberwise _
```
Comment (kim-em) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:140]: Could we move the note to immediately before the `simpa`?

**Comment by kim-em** [comment]
!bench

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convolution.lean]: Sure, done

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 3]
```diff
@@ -122,12 +117,11 @@ lemma term_convolution' (f g : ℕ → ℂ) (s : ℂ) :
     -- the right hand sum is over the union below, but in each term, one factor is always zero
     have hS : (fun p ↦ p.1 * p.2) ⁻¹' {0} = {0} ×ˢ univ ∪ univ ×ˢ {0} := by
       ext
-      simp only [mem_preimage, mem_singleton_iff, Nat.mul_eq_zero, mem_union, mem_prod, mem_univ,
-        and_true, true_and]
+      simp [Nat.mul_eq_zero,  -singleton_prod, -prod_singleton]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:120]:
```suggestion
      simp [Nat.mul_eq_zero, -singleton_prod, -prod_singleton]
```

**Comment by MichaelStollBayreuth** [comment]
I'm not sure I think this is universally good if it makes one of the files 50% slower...

**Comment by loefflerd** [comment]
> I'm not sure I think this is universally good if it makes one of the files 50% slower...

I'm not so sure this is a good metric. Per-file percentages are informative for issues that affect whole chunks of the library (like typeclass-synthesis slowness) but here we're talking about lots of localised changes that are completely orthogonal to each other. I used Kim's proposed criterion "anything that takes < 10,000 heartbeats should be left unsqueezed"; I think the slowest of these is 6k heartbeats (and most are much faster than that).

**Comment by jcommelin** [comment]
bors d+
